US08865736B2
6-[3-(Aminocarbonyl)phenoxy]hexyl(triphenyl)phosphonium bromide
A mixture of 3-[(6-bromohexyl)oxy]benzenecarboxamide (2.10 g, 7 mmol, 1 equiv.) and triphenylphosphine (1.93 g, 7.35 mmol, 1.05 equiv.) in CH3CN (30 ml) was heated under reflux for 72 h. The solvent was evaporated under reduced pressure and the residue was triturated with dry Et2O until it solidified. The solid was filtered and dried in vacuo to give the desired compound as a white solid (4.0 g, 100%). HPLC-MS (method 1): m/z 482 [M-Br]+, Rt=3.65 min.

reactant | 3-[(6-bromohexyl)oxy]benzenecarboxamide | 7 mmol, 2.10 g, 1 equiv. | BrCCCCCCOC=1C=C(C=CC1)C(=O)N | C13H18BrNO2
reactant | triphenylphosphine | 7.35 mmol, 1.93 g, 1.05 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH3CN | 30 ml | CC#N | C2H3N
product | 6-[3-(Aminocarbonyl)phenoxy]hexyl(triphenyl)phosphonium bromide | 4.0 g, 100% | [Br-].NC(=O)C=1C=C(OCCCCCC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1 | InChI=1S/C31H32NO2P.BrH/c32-31(33)26-15-14-16-27(25-26)34-23-12-1-2-13-24-35(28-17-6-3-7-18-28,29-19-8-4-9-20-29)30-21-10-5-11-22-30;/h3-11,14-22,25H,1-2,12-13,23-24H2,(H-,32,33);1H
